US06897225B1
5-(4-Carboxybenzyl)-3-(3,5-dichlorophenyl)-1,3-diazabicyclo[3.3.0]octane-2,4-dione
A mixture of N-[N-(3,5-dichlorophenyl)carbamoyl]-2-(4-carboxybenzyl)proline (0.080 g) and SOCl2 (2.0 mL) was heated at 100° C. for 1 hour. The solution was evaporated. The residue was dissolved in toluene, evaporated and dried under vacuum. The residue was dissolved in a mixture of THF/H2O (4/0.4 mL) and the solution was stirred for 18 hours. It was diluted with EtOAc and water. The organic layer was separated, washed with water, brine, dried (MgSO4), filtered, and concentrated. Purification by chromatography (Silica gel: EtOAc/hexane: 1/1) afforded the titled compound (48 mg). MS (m/z) 441 (M++Na).

reactant | N-[N-(3,5-dichlorophenyl)carbamoyl]-2-(4-carboxybenzyl)proline | 0.080 g | ClC=1C=C(C=C(C1)Cl)NC(=O)N1[C@](C(=O)O)(CCC1)CC1=CC=C(C=C1)C(=O)O | C20H18Cl2N2O5
reactant | SOCl2 | 2.0 mL | O=S(Cl)Cl | Cl2OS
product | 5-(4-Carboxybenzyl)-3-(3,5-dichlorophenyl)-1,3-diazabicyclo[3.3.0]octane-2,4-dione | 48 mg | C(=O)(O)C1=CC=C(CC23C(N(C(N3CCC2)=O)C2=CC(=CC(=C2)Cl)Cl)=O)C=C1 | C20H16Cl2N2O4
